US08609653B2
A mixture of crude methyl 6-amino-4-(chroman-6-yl)-5-(hydroxymethyl)-2-methylnicotinate in dichloromethane (DCM) (264 mL) was treated with PCC (5.78 g, 26.8 mmol) and the mixture was stirred overnight at ambient temperature. The mixture was filtered over Celite™ and the filtrate was concentrated and purified on silica gel to afford methyl 6-amino-4-(chroman-6-yl)-5-formyl-2-methylnicotinate as a yellow solid (4.5 g, 13.79 mmol, 66.8% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.66 (s, 1 H), 7.00 (dd, J=2.0, 8.3 Hz, 1 H), 6.95 (s, 1 H), 6.84 (d, J=8.4 Hz, 1 H), 4.26-4.23 (m, 2 H), 3.54 (s, 3 H), 2.81 (t, J=6.4 Hz, 2 H), 2.48 (s, 3 H), 2.08-2.02 (m, 2 H); LC/MS (m/z) ES+=327.25 (M+1).

reactant | methyl 6-amino-4-(chroman-6-yl)-5-(hydroxymethyl)-2-methylnicotinate | NC1=NC(=C(C(=O)OC)C(=C1CO)C=1C=C2CCCOC2=CC1)C | C18H20N2O4
reactant | PCC | 26.8 mmol, 5.78 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 264 mL | ClCCl | CH2Cl2
product | methyl 6-amino-4-(chroman-6-yl)-5-formyl-2-methylnicotinate | 13.79 mmol, 4.5 g, 66.8% yield | NC1=NC(=C(C(=O)OC)C(=C1C=O)C=1C=C2CCCOC2=CC1)C | C18H18N2O4
